US09388195B2
B) Production of methyl 5-bromo-3-[(trifluoroacetyl)amino]thiophene-2-carboxylate
To a solution of diisopropylamine (20 mL) in tetrahydrofuran (200 mL) was added 1.6M n-butyllithium/hexane solution (82.4 mL) while stirring under ice-cooling, and the mixture was stirred at 0° C. for 15 min. After stirring, the reaction system was cooled to −78° C., and a solution of methyl 3-[(trifluoroacetyl)amino]thiophene-2-carboxylate (10 g) in tetrahydrofuran (50 mL) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at the same temperature for 1 hr, and 1,2-dibromoethane (20.6 mL) was added. After stirring at the same temperature for 30 min, the reaction system was allowed to warm to room temperature, and further stirred for 30 min. The reaction system was poured into saturated aqueous sodium hydrogen carbonate (600 mL), and the mixture was extracted with ethyl acetate, washed with brine, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (5.3 g) as a yellow solid.

reactant | diisopropylamine | 20 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.6M, 82.4 mL | C(CCC)[Li].CCCCCC
reactant | methyl 3-[(trifluoroacetyl)amino]thiophene-2-carboxylate | 10 g | FC(C(=O)NC1=C(SC=C1)C(=O)OC)(F)F | C8H6F3NO3S
reactant | 1,2-dibromoethane | 20.6 mL | BrCCBr | C2H4Br2
reactant | sodium hydrogen carbonate | 600 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 5-bromo-3-[(trifluoroacetyl)amino]thiophene-2-carboxylate | 5.3 g | BrC1=CC(=C(S1)C(=O)OC)NC(C(F)(F)F)=O | C8H5BrF3NO3S
